US05411980
Step B: 5-n-Butyl-2-cyanomethyl-2,4-dihydro-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one
Deprotection of 5-n-butyl-2-cyanomethyl-2,4-dihydro-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one in 67% aqueous acetic acid was accomplished by the procedure of Example 3, Step B. After work-up, the residue was flash chromatographed over silica gel (15 mL for 0.082 mmole, gradient elution using 3-10% MeOH/CH2Cl2) to give a 32% yield of the desired material as a glassy solid, mp 86°-88° C., homogeneous by TLC in 10% MeOH/CH2Cl2, mass spectrum (FAB) m/e 415 (M+1)+.

reactant | 5-n-butyl-2-cyanomethyl-2,4-dihydro-4-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | C(CCC)C=1N(C(N(N1)CC#N)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H36N8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-n-Butyl-2-cyanomethyl-2,4-dihydro-4-[[2'-(5-tetrazolyl)biphenyl-4-yl]methyl]-3H-1,2,4-triazol-3-one | 32% yield | C(CCC)C=1N(C(N(N1)CC#N)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C22H22N8O
